US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-1,3-benzdiazepin-2-on-3-yl)-propyl]-N-[2-(N-methyl-3,4-dimethoxy-phenylamino)-ethyl]-methylamine
The title compound is prepared from N-[3-(2-(2-amino-4,5-dimethoxyphenyl)-ethylamino)-propyl]-N-[2-(N-methyl-3,4-dimethoxy-phenylamino)-ethyl]-methylamine and carbonyldiimidazole analogously to Example 56.

reactant | N-[3-(2-(2-amino-4,5-dimethoxyphenyl)-ethylamino)-propyl]-N-[2-(N-methyl-3,4-dimethoxy-phenylamino)-ethyl]-methylamine | NC1=C(C=C(C(=C1)OC)OC)CCNCCCN(CCN(C)C1=CC(=C(C=C1)OC)OC)C | C25H40N4O4
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-1,3-benzdiazepin-2-on-3-yl)-propyl]-N-[2-(N-methyl-3,4-dimethoxy-phenylamino)-ethyl]-methylamine | COC=1C(=CC2=C(CCN(C(N2)=O)CCCN(CCN(C)C2=CC(=C(C=C2)OC)OC)C)C1)OC | C26H38N4O5
